US05047411
A mixture of [2-(N-ethylformamido)benzoxazol-6-yl]-methyltriphenylphosphonium bromide (0.5 g), 1-benzyl-2-imidazolecarbaldehyde (0.2 g) and potassium tert-butoxide (0.1 g) in tetrahydrofuran (5.0 ml) was refluxed for 50 minutes. Evaporation of a solvent gave a residue, which was purified by a column chromatography on silica gel eluting with a mixture of chloroform and methanol (19:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 6-[2-(1-benzylimidazol-2-yl)vinyl]-2-ethylaminobenzoxazole (0.2 g).

reactant | [2-(N-ethylformamido)benzoxazol-6-yl]-methyltriphenylphosphonium bromide | 0.5 g | [Br-].C(C)N(C=O)C=1OC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C
reactant | 1-benzyl-2-imidazolecarbaldehyde | 0.2 g | C(C1=CC=CC=C1)N1C(=NC=C1)C=O | C11H10N2O
reactant | potassium tert-butoxide | 0.1 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 6-[2-(1-benzylimidazol-2-yl)vinyl]-2-ethylaminobenzoxazole | 0.2 g | C(C1=CC=CC=C1)N1C(=NC=C1)C=CC1=CC2=C(N=C(O2)NCC)C=C1 | C21H20N4O
